US06133303
Step 5: 4-(3-Bromopropyl)-2-methoxy-1-methylbenzene
Under N2, a solution of 7.33 g (40.7 mmol) of 3-(3-methoxy-4-methylphenyl)-1-propanol in 200 mL of CH2Cl2 was treated with 10.67 g (40.7 mmol) of triphenylphosphine followed in portions by 7.3 g (40.7 mmol) of recrystallized N-bromosuccinimide. The solution was stirred at room temperature for 2 hours, then filtered through flash silica gel. Removal of the solvent under reduced pressure left 8.68 g (87.9% yield) of the product as a clear oil. The structure was confirmed by NMR spectroscopy.

reactant | 3-(3-methoxy-4-methylphenyl)-1-propanol | 40.7 mmol, 7.33 g | COC=1C=C(C=CC1C)CCCO | C11H16O2
reactant | triphenylphosphine | 40.7 mmol, 10.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 40.7 mmol, 7.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromopropyl)-2-methoxy-1-methylbenzene | 8.68 g, 87.9% yield | BrCCCC1=CC(=C(C=C1)C)OC | C11H15BrO
